US07666879B2
A. 2-(4-Bromo-phenyl)-N-(4-cyano-3-trifluoromethyl-phenyl)-acetamide
Dissolve 4-bromo-phenyl acetic acid (5 g, 23.3 mmol) in 125 mL dichloromethane. Add 1 mL DMF, stir to give a clear solution, then add oxalyl chloride (3.25 g, 2.23 mL, 25.5 mmol) portionwise via syringe and stir at room temperature for 15-30 minutes until gas evolution ceases. Remove volatiles on rotovap to yield a clear yellow oil. Dissolve the oil in 100 mL amylene-stabilized chloroform, chill on ice and fit flask with a dropping funnel. Fill the dropping funnel with a solution of 4-amino-2-trifluoromethyl-benzonitrile (4.65 g, 25 mmol) and pyridine (6.05 g, 6.19 mL, 76.5 mmol) in 200 mL amylene-stabilized chloroform. Add the benzonitrile solution to the cold acid chloride solution with stirring over 30 minutes, remove the ice bath and stir overnight at room temperature. Dilute the reaction mixture with 200 mL dichloromethane, wash twice with 250 mL portions of 1 N NaHSO4, once with aqueous saturated sodium chloride, then dry over MgSO4 and concentrate to a brown solid. Purify on Biotage 75L® silica cartridge in 4.5:4.5:1 CH2Cl2:hexanes:diethyl ether to yield 4.33 g (48%) of the title compound as a pale yellow-ivory solid. LCMS (ES) m/z 381,383 (M−1).

reactant | 4-bromo-phenyl acetic acid | 23.3 mmol, 5 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | oxalyl chloride | 25.5 mmol, 2.23 mL, 3.25 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-amino-2-trifluoromethyl-benzonitrile | 25 mmol, 4.65 g | NC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H5F3N2
reactant | pyridine | 76.5 mmol, 6.19 mL, 6.05 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
solvent | amylene | 100 mL | CC=C(C)C | C5H10
solvent | amylene | 200 mL | CC=C(C)C | C5H10
solvent | benzonitrile | C(C1=CC=CC=C1)#N | C7H5N
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(4-Bromo-phenyl)-N-(4-cyano-3-trifluoromethyl-phenyl)-acetamide | 4.33 g, 48% | BrC1=CC=C(C=C1)CC(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F | C16H10BrF3N2O
